US07230001B1
N-(1,1-dimethylethoxycarbonyl)-N-[(2-methanesulphonylamino-phenyl)-methyl]-1-(phenylmethyl)-4-piperidineamine
1.64 ml. (21 mmol) of methanesulphonyl chloride was added dropwise to a solution of 7.91 g (20 mmol) of N-(1,1-dimethylethoxycarbonyl)-N-[(2-aminophenyl)methyl]-1-(phenylmethyl)-4-piperidineamine and 3.0 ml (21 mmol) of triethylamine in 100 ml of tetrahydrofuran and the mixture was then kept for 12 hours at ambient temperature. It was then diluted with 100 ml of EE and extracted twice with 70 ml of saturated sodium hydrogen carbonate solution. The ethyl acetate phase was dried over sodium sulphate and concentrated by evaporation in vacuo. 8.7 g (92% of theoretical) of a colourless substance were obtained, Rf 0.85 (El D), which were used in the next step without any further purification.

reactant | methanesulphonyl chloride | 21 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(1,1-dimethylethoxycarbonyl)-N-[(2-aminophenyl)methyl]-1-(phenylmethyl)-4-piperidineamine | 20 mmol, 7.91 g | CC(C)(OC(=O)N(C1CCN(CC1)CC1=CC=CC=C1)CC1=C(C=CC=C1)N)C | C24H33N3O2
reactant | triethylamine | 21 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(1,1-dimethylethoxycarbonyl)-N-[(2-methanesulphonylamino-phenyl)-methyl]-1-(phenylmethyl)-4-piperidineamine | CC(C)(OC(=O)N(C1CCN(CC1)CC1=CC=CC=C1)CC1=C(C=CC=C1)NS(=O)(=O)C)C | C25H35N3O4S
